US07632838B2
1-{4-[(4-chlorophenyl)sulfonyl]piperidin-1-yl}isoquinoline
Using the procedure from Example 7A, 4-[(4-chlorophenyl)sulfonyl]piperidine (100 mg, 0.38 mmol) was reacted with 1-chloroisoquinoline (131 mg, 0.76 mmol), DIEA (0.27 ml, 1.52) and 1,4-dioxane (0.3 ml) at 190° C. to afford the title compound (15 mg), an off-white solid, in 10% yield.

reactant | 4-[(4-chlorophenyl)sulfonyl]piperidine | 0.38 mmol, 100 mg | ClC1=CC=C(C=C1)S(=O)(=O)C1CCNCC1 | C11H14ClNO2S
reactant | 1-chloroisoquinoline | 0.76 mmol, 131 mg | ClC1=NC=CC2=CC=CC=C12 | C9H6ClN
reactant | DIEA | 0.27 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | 1,4-dioxane | 0.3 ml | O1CCOCC1 | C4H8O2
product | 1-{4-[(4-chlorophenyl)sulfonyl]piperidin-1-yl}isoquinoline | 15 mg, 10% yield | ClC1=CC=C(C=C1)S(=O)(=O)C1CCN(CC1)C1=NC=CC2=CC=CC=C12 | C20H19ClN2O2S
